US08981084B2
1-(5-Methoxypyridin-2-yl)piperazine
This compound was synthesized from piperazine and 2-bromo-5-methoxypyridine as described for example 39 step 1 (130 mg, yield 25%) as pale yellow liquid. 1H NMR (300 MHz, DMSO-d6) δ 7.87-7.86 (d, J=2.9 Hz, 1H), 7.27-7.23 (dd, J=9.1 Hz, 3.2 Hz, 1H), 6.80-6.77 (d, J=9.2 Hz, 1H), 3.71 (s, 3H), 3.32-3.28 (m, 4H), 2.86-2.83 (m, 4H). MS (ESI) m/z: Calculated for C10H15N3O: 193.12. found: 193.9 (M+H)+

reactant | piperazine | N1CCNCC1 | C4H10N2
reactant | 2-bromo-5-methoxypyridine | BrC1=NC=C(C=C1)OC | C6H6BrNO
product | 1-(5-Methoxypyridin-2-yl)piperazine | yield 25% | COC=1C=CC(=NC1)N1CCNCC1 | C10H15N3O
